US06498169B1
Synthesis of 4-[N-Propargyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Tetrahydrochloride
4-Propargylamino-1-[[2-(3,4,5-trimethoxyphenyl]pyridin-4-yl]methyl]piperidine (227 mg) and 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (226 mg) were condensed in the same manner as described in Example 9. The title compound was obtained as yellow powder after converting a free base to a tetrahydrochloride. Yield: 128 mg (23%). 1H-NMR (400 MHz, measured as a free base, CDCl3) δ: 1.48-2.40 (m, 7H), 2.72 (br, 1H), 3.02 (br, 2H), 3.39 (s, 2H), 3.64 (br, 2H), 3.84 (s, 2H), 3.91 (s, 6H), 3.98 (s, 6H), 3.99 (s, 6H), 7.22-7.29 (m, 6H), 7.66 (br, 2H), 8.60 (d, 1H, J=4.9 Hz), 8.62 (d, 1H, J=4.9 Hz).

reactant | 4-Propargylamino-1-[[2-(3,4,5-trimethoxyphenyl]pyridin-4-yl]methyl]piperidine | 227 mg | C(C#C)NC1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C23H29N3O3
reactant | 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 226 mg | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-Propargyl-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]amino]-1-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperidine Tetrahydrochloride | Cl.Cl.Cl.Cl.C(C#C)N(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C38H44N4O6.4ClH/c1-8-15-42(25-27-10-14-40-32(19-27)29-22-35(45-4)38(48-7)36(23-29)46-5)30-11-16-41(17-12-30)24-26-9-13-39-31(18-26)28-20-33(43-2)37(47-6)34(21-28)44-3;;;;/h1,9-10,13-14,18-23,30H,11-12,15-17,24-25H2,2-7H3;4*1H
